US06756380B1
To a solution of 4.40 g (9.28 mmol) 5-bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid 3,5-bis-trifluoromethyl-benzylamide in 50 ml N,N-dimethylformamide 0.48 g (12.06 mmol) sodiumhydride (60% dispersion in mineral oil) was added and the reaction mixture stirred for 1 hr. After the addition of 0.92 ml (14.85 mmol) methyl iodide at 0°, the reaction mixture was stirred for 3 hrs. at RT. The reaction mixture was distributed between 100 ml H2O, 100 ml brine and 100 ml CH2Cl2. The phases were separated, the aqueous layer washed twice with 100 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 40:1) to give 3.50 g (77%) 5-bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a colorless oil.

reactant | 5-bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid 3,5-bis-trifluoromethyl-benzylamide | 9.28 mmol, 4.40 g | FC(C=1C=C(CNC(=O)C2=NC(=NC=C2Br)SC)C=C(C1)C(F)(F)F)(F)F | C15H10BrF6N3OS
reactant | N,N-dimethylformamide | 12.06 mmol, 50 ml, 0.48 g | CN(C=O)C | C3H7NO
reactant | methyl iodide | 14.85 mmol, 0.92 ml | CI | CH3I
reactant | H2O | 100 ml | O | H2O
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 3.50 g, 77% | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2Br)SC)C)C=C(C1)C(F)(F)F)(F)F | C16H12BrF6N3OS
